US07576215B2
ETHYL 4-(3-AMINOPHENYL)-8-(TRIFLUOROMETHYL)QUINOLINE-3-CARBOXYLATE
The title compound was prepared from 4-chloro-8-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester and 3-aminophenylboronic acid according to the procedure of Example 1. MS (ES) m/z 361.0;

reactant | 4-chloro-8-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)C(F)(F)F | C13H9ClF3NO2
reactant | 3-aminophenylboronic acid | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
product | ETHYL 4-(3-AMINOPHENYL)-8-(TRIFLUOROMETHYL)QUINOLINE-3-CARBOXYLATE | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)OCC | C19H15F3N2O2
